US07915268B2
A round bottom flask was charged with 8-fluorochroman-4-one (8.2 g), hydroxylamine hydrochloride (3.78 g) and sodium acetate (4.46 g). A reflux condenser was added, the flask was purged with argon, dry EtOH (20 mL) was added, and the mixture was stirred at reflux for 18 hours. The solution was cooled to room temperature, diluted with EtOAc, and washed with water. The organic phase was dried, and evaporated to give the intermediate 8-fluorochroman-4-one oxime, which was reduced with Raney Nickel in EtOH at 50 PSI to yield the titled amine (4.69 g, 57%).

reactant | 8-fluorochroman-4-one | 8.2 g | FC=1C=CC=C2C(CCOC12)=O | C9H7FO2
reactant | hydroxylamine hydrochloride | 3.78 g | Cl.NO
reactant | sodium acetate | 4.46 g | C(C)(=O)[O-].[Na+]
product | 8-fluorochroman-4-one oxime | FC=1C=CC=C2C(CCOC12)=NO | C9H8FNO2
